* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=6.02030078142e-11
.param C2=7.69127383386e-12
.param Ce=1.37080263647e-12
.param Ch=6.52643813377e-10
.param Csh=1.60512684569e-11
.param L1=5.3182690684e-08
.param Lh=1.58006280582e-07
.param Lp=3.44812287118e-07
.param Rp=2.67284055065
.param Vsrc_amp=274.814846227
.param ne=5.69492434358e+14
.param nu_m=105676603.91

* Sources
Vsrc src 0 SIN(0 274.814846227 13560000 0 0 0)

* Circuit
L1 src electrode {L1}
C1 electrode 0 {C1}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 20.5416488234
Lbulk nb ns 1.94382181707e-07
Csh ns n 1.60512684569e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
